* Schematics Netlist *



D_D1         $N_0001 0 D1N4148 
I_I1         0 $N_0001 DC 2.55  
R_R11         0 $N_0001  45  
R_R21         $N_0001 $N_0002  0.019  
R_Ra         $N_0003 $N_0002  28k  
R_Rb         0 $N_0003  10k  
V_V3         $N_0004 $N_0002 5V
V_V4         $N_0005 0  
+PULSE 0 32.9 0 
M_M1         $N_0004 $N_0007 $N_0006 $N_0006 IRF150
R_Rsense         $N_0006 0  1  
R_R14         0 $N_0008  0.5k  
R_R12         $N_0006 $N_0009  1k  
R_R8         $N_0009 $N_0010  1k  
X_U2         $N_0005 $N_0006 $N_0011 $N_0012 $N_0007 uA741
X_U4         $N_0008 $N_0009 $N_0011 $N_0012 $N_0010 uA741
V_V1         $N_0011 0 5V
V_V2         0 $N_0012 5V
