* Schematics Netlist *



R_Rse         $N_0002 $N_0001  .47  
R_Rsh         0 $N_0002  145.62  
D_D4         $N_0002 0 D1N4148 
M_M1         $N_0001 $N_0004 $N_0003 $N_0003 IRF150
X_U1         $N_0005 $N_0003 $N_0006 $N_0007 $N_0004 uA741
V_V1         $N_0006 0 10V
R_Rsense         0 $N_0003  1k  
V_V3         $N_0005 0 DC 10 
+PULSE 0 32.9 0 
I_I4         0 $N_0002 DC .06  
V_V2         0 $N_0007 10V
