* Schematics Netlist *



D_D1         $N_0001 0 D1N4148 
I_I1         0 $N_0001 DC 2.68  
R_R21         $N_0001 $N_0002  1.9  
M_M3         $N_0004 $N_0003 $N_0002 $N_0002 IRF9140
R_Ra         $N_0005 $N_0002  28k  
R_Rb         0 $N_0005  10k  
R_R11         0 $N_0001  45  
X_U2         $N_0006 $N_0005 $N_0007 $N_0008 $N_0003 uA741
V_V3         $N_0006 0  AC 10
+PULSE 0 32.9 0 
R_Rsense         0 $N_0004  1  
V_V2         $N_0007 0 12V
V_V1         0 $N_0008 12V
